US04552882
Preparation of 6-fluoro-7-amino-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (stage C)
1.5 ml of ethyl bromide is added to a solution of 1 gram of ethyl 7-acetamido-4-hydroxy-6-fluoro-3-quinolinecarboxylate in 25 ml of water, 60 ml of ethanol and 2.5 ml of 10% sodium hydroxide solution, and the mixture is maintained under reflux for 4 hours. The mixture is then concentrated to half its volume, 5 ml of 10% sodium hydroxide solution are added and refluxing is maintained for 1 hour. The mixture is allowed to cool and is acidified with hydrochloric acid, and the precipitate formed is filtered off. The precipitate is washed with water, dried, and recrystallized in a dimethylformamide/water (10:1) mixture.

reactant | ethyl bromide | 1.5 ml | C(C)Br | C2H5Br
reactant | ethyl 7-acetamido-4-hydroxy-6-fluoro-3-quinolinecarboxylate | 1 gram | C(C)(=O)NC1=C(C=C2C(=C(C=NC2=C1)C(=O)OCC)O)F | C14H13FN2O4
solvent | water | 25 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2.5 ml | [OH-].[Na+]
product | 6-fluoro-7-amino-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | FC=1C=C2C(C(=CN(C2=CC1N)CC)C(=O)O)=O | C12H11FN2O3
